US08530667B2
A microwave vial is charged with 4-iodo-5-methoxy-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one (184 mg, 0.6 mmol), 6-chloro-4-methylpyridine-3-boronic acid (103 mg, 0.6 mmol) and bis(triphenylphosphine)palladium dichloride (21 mg, 0.03 mmol). DME (1 ml) is added, followed by 2N aqueous sodium carbonate solution (0.6 ml, 1.2 mmol) and the reaction is heated to 130° C. by microwave irradiation, with stirring, for 30 minutes. The reaction is then diluted with 2N HCl (20 ml), extracted with ethyl acetate (20 ml), and the organic layer is removed and purified by flash chromatography on silica gel to give 4-(6-chloro-4-methyl-pyridin-3-yl)-5-methoxy-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one (119 mg).

reactant | 4-iodo-5-methoxy-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one | 0.6 mmol, 184 mg | IC=1C(C2C3CCC(C2C1OC)O3)=O | C10H11IO3
reactant | 6-chloro-4-methylpyridine-3-boronic acid | 0.6 mmol, 103 mg | ClC1=CC(=C(C=N1)B(O)O)C | C6H7BClNO2
reactant | DME | 1 ml | COCCOC | C4H10O2
reactant | sodium carbonate | 1.2 mmol, 2N, 0.6 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | HCl | 2N, 20 ml | Cl | ClH
catalyst | bis(triphenylphosphine)palladium dichloride | 0.03 mmol, 21 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(6-chloro-4-methyl-pyridin-3-yl)-5-methoxy-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one | 119 mg | ClC1=CC(=C(C=N1)C=1C(C2C3CCC(C2C1OC)O3)=O)C | C16H16ClNO3
